US05935972
5-Amino-7-methyl-2,3-dihydrobenzofuran
A solution of 7-methyl-5-nitro-2,3-dihydrobenzofuran (2 g) in ethanol (25 ml) was hydrogenated over palladium on carbon catalyst overnight. The catalyst was filtered off and the solvent removed in vacuo. The residue was partitioned between ether (30 ml) and hydrochloric acid (2M; 30 ml), the acid layer removed and the organic extracted with further acid. The combined acidic extracts were basified with 5M sodium hydroxide and extracted with ether (4×25 ml). The combined, dried (MgSO4), extracts were evaporated in vacuo to give the title compound as a brown solid (0.7 g).

reactant | 7-methyl-5-nitro-2,3-dihydrobenzofuran | 2 g | CC1=CC(=CC=2CCOC21)[N+](=O)[O-] | C9H9NO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-Amino-7-methyl-2,3-dihydrobenzofuran | 0.7 g | NC=1C=C(C2=C(CCO2)C1)C | C9H11NO
